US08604069B2
(A-27-9) tert-Butyl 3-[5-cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]-5-hydroxyvalerate
tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-[5-cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]valerate (233 mg) and tetrahydrofuran (3.0 mL) were mixed. To the mixture were added tetrabutylammonium fluoride (1 M in tetrahydrofuran) (0.444 mL) and 80 v/v % aqueous acetic acid (0.045 mL) at ice temperature. The mixture was stirred at RT overnight. After an addition of brine at ice temperature, the mixture was extracted with ethyl acetate. The organic layer was washed with brine, then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by silica gel column chromatography (Eluent: ethyl acetate/hexane=1/2) to give the title compound (107 mg).

reactant | tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-[5-cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]valerate | 233 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C=1N=NN(C1C1CC1)C1CC(C1)CC(C)C | C38H55N3O3Si
reactant | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
reactant | tetrabutylammonium fluoride | 1 M, 0.444 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 0.045 mL | C(C)(=O)O | C2H4O2
solvent | brine | [Cl-].[Na+].O
product | tert-Butyl 3-[5-cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]-5-hydroxyvalerate | 107 mg | C1(CC1)C1=C(N=NN1C1CC(C1)CC(C)C)C(CC(=O)OC(C)(C)C)CCO | C22H37N3O3
